US07189851B2
4-{(9aS)-2-(2,4-difluorobenzyl)-5-oxo-3-[(trifluoroacetyl)amino]-7,8,9,9a-tetrahydro-5H-pyrido[2,3-α]pyrrolizin-4-yl}-N-[(1R)-2,3-dihydro-1H-inden-1-yl]benzamide
To the 2.0 ml dichloromethane solution containing the acid (G, 4-{(9aS)-2-(2,4-difluorobenzyl)-5-oxo-3-[(trifluoroacetyl)amino]-7,8,9,9a-tetrahydro-5H-pyrido[2,3-a]pyrrolizin-4-yl}benzoic acid, 956 mg, 1.8 mmol), 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (691 mg, 3.6 mmol) and 1-hydroxybenzotriazole hydrate, 480 mg (R)-(−)-1-aminoindan (3.6 mmol) was added. The resulting mixture was stirred at room temperature for 3 hours. Diluted with dichloromethane. Washed with water and brine subsequently. Dried with sodium sulfate. Upon the removal of the solvent, the residue was purified with flash chromatography. 320 mg of the title compound as a light yellowish solid was obtained. NMR (400 MHz, CDCl3) δ 7.95 (m, 2H), 7.32 (m, 5H), 6.95 (m, 4 m), 5.62 (m, 1H), 4.59 (m, 1H), 4.15 (m, 1H), 3.55 (s, 2H), 3.15 (m, 1H), 3.06 (m, 1H), 2.90 (m, 1H), 2.58 (m, 1H), 2.32 (m, 2H), 2.02 (m, 1H), 1.25 (m, 1H) ppm. ESI-MS m/z 647 (M+H)+, 645 (M−H)−.

reactant | 4-{(9aS)-2-(2,4-difluorobenzyl)-5-oxo-3-[(trifluoroacetyl)amino]-7,8,9,9a-tetrahydro-5H-pyrido[2,3-a]pyrrolizin-4-yl}benzoic acid | FC1=C(CC=2C(=C(C3=C([C@@H]4CCCN4C3=O)N2)C2=CC=C(C(=O)O)C=C2)NC(C(F)(F)F)=O)C=CC(=C1)F | C26H18F5N3O4
reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 3.6 mmol, 691 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | O.ON1N=NC2=C1C=CC=C2
reactant | (R)-(−)-1-aminoindan | 3.6 mmol, 480 mg | N[C@@H]1CCC2=CC=CC=C12 | C9H11N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 2.0 ml | ClCCl | CH2Cl2
product | 4-{(9aS)-2-(2,4-difluorobenzyl)-5-oxo-3-[(trifluoroacetyl)amino]-7,8,9,9a-tetrahydro-5H-pyrido[2,3-α]pyrrolizin-4-yl}-N-[(1R)-2,3-dihydro-1H-inden-1-yl]benzamide | 320 mg | FC1=C(CC=2C(=C(C3=C([C@@H]4CCCN4C3=O)N2)C2=CC=C(C(=O)N[C@@H]3CCC4=CC=CC=C34)C=C2)NC(C(F)(F)F)=O)C=CC(=C1)F | C35H27F5N4O3
